US07259183B2
To a suspension of NaH (24 mg, ˜55% dispersion in oil, 0.53 mmol) in DMF (2 ml) at 0° C. was added a solution of 1-(4-bromophenyl)-cyclobutanol (100 mg, 0.44 mmol) in DMF (2 ml). The mixture was stirred at 0° C. for 30 min and then methyl iodide (41 μl, 0.66 mmol) was added. The reaction mixture was then warmed up to rt and stirring was continued overnight. The mixture was quenched with water and extracted with ether. The organic phase was washed with water and brine, dried (MgSO4), filtered, and concentrated in vacuo to give a residue which was purified by flash column chromatography (1:9 ether:pentane) to give 1-bromo-4-(1-methoxycyclobutyl)-benzene (79 mg, 75%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.50 (d, J=8.5 Hz, 2H), 7.30 (d, J=8.5 Hz, 2H), 2.92 (s, 3H), 2.38-2.33 (m, 4H), 1.94 (m, 1H), 1.67 (m, 1H).

reactant | NaH | 0.53 mmol, 24 mg | [H-].[Na+]
reactant | 1-(4-bromophenyl)-cyclobutanol | 0.44 mmol, 100 mg | BrC1=CC=C(C=C1)C1(CCC1)O | C10H11BrO
reactant | methyl iodide | 0.66 mmol, 41 μl | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-bromo-4-(1-methoxycyclobutyl)-benzene | 79 mg, 75% | BrC1=CC=C(C=C1)C1(CCC1)OC | C11H13BrO
